### PR TITLE
[Merged by Bors] - feat: `Nat.add_div_le_div_add_div_add_one`

### PR DESCRIPTION
**Pull request by plp127**
Prove natural number division inequality `(a + b) / c ≤ a / c + b / c + 1`. Also deprecate `Nat.add_div_le_add_div` because it is a duplicate of `Nat.div_add_div_le_add_div`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
I guess this could also be stated as a wcovBy version of `div_add_div_le_add_div`?

**Comment by plp127** [comment]
I guess it could. But is it more useful that way?

File: Mathlib/Data/Nat/ModEq.lean [hunk 1]
```diff
@@ -545,9 +545,14 @@ protected theorem add_div_of_dvd_left {a b c : ℕ} (hca : c ∣ b) : (a + b) /
...
+@[deprecated Nat.div_add_div_le_add_div (since := "2026-08-05")]
 theorem add_div_le_add_div (a b c : ℕ) : a / c + b / c ≤ (a + b) / c :=
-  if hc0 : c = 0 then by simp [hc0]
-  else by rw [Nat.add_div (Nat.pos_of_ne_zero hc0)]; exact Nat.le_add_right _ _
+  Nat.div_add_div_le_add_div
+
+theorem add_div_le_div_add_div_add_one (a b c : ℕ) : (a + b) / c ≤ a / c + b / c + 1 :=
+  if h : c = 0 then by simp [h] else
+    (Nat.add_div (Nat.pos_of_ne_zero h)).trans_le
+      (Nat.add_le_add_left (by split <;> decide) _)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/ModEq.lean]: nit: perhaps more readable as
```suggestion
theorem add_div_le_div_add_div_add_one (a b c : ℕ) : (a + b) / c ≤ a / c + b / c + 1 := by
  by_cases h : c = 0
  · simp [h]
  · grw [Nat.add_div (Nat.pos_of_ne_zero h), Nat.add_le_add_left]
    split <;> decide
```

**Comment by eric-wieser** [comment]
maintainer merge

File: Mathlib/Data/Nat/ModEq.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Data/Nat/ModEq.lean]: why `grw`?

Comment (j-loreaux) [reply Mathlib/Data/Nat/ModEq.lean]: I agree with Eric about readability.

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Data/Nat/ModEq.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Data/Nat/ModEq.lean]: note: many other proofs in this file are written like this
